US07700638B2
5-Cyano-7-[3-(dimethylamino)phenyl]-1-phenylbenzimidazole
5-Cyano-7-iodo-1-phenylbenzimidazole (173 mg, 0.5 mmol), toluene (3.0 ml), tetrakis(triphenylphosphine)palladium(0) (58 mg, 0.05 mmol), 3-dimethylaminophenylboronic acid (82 mg, 0.5 mmol), ethanol (3.0 ml) and potassium carbonate (138 mg, 1.0 mmol) were combined and the mixture was stirred at reflux overnight. The solvent was removed under reduced pressure and crude product was purified on a 2 g silica Isolute® SPE column, eluting with dichloromethane/methanol (95:5). The eluent was concentrated under reduced pressure and the crude product was suspended in acetonitrile then treated with diethyl ether to precipitate the product Recrystallisation from diethyl ether afforded the title compound (64 mg, 38%) m/z, 339.0 (M+H)+.

reactant | 5-Cyano-7-iodo-1-phenylbenzimidazole | 0.5 mmol, 173 mg | C(#N)C1=CC2=C(N(C=N2)C2=CC=CC=C2)C(=C1)I | C14H8IN3
reactant | toluene | 3.0 ml | C1(=CC=CC=C1)C | C7H8
reactant | 3-dimethylaminophenylboronic acid | 0.5 mmol, 82 mg | CN(C=1C=C(C=CC1)B(O)O)C | C8H12BNO2
reactant | potassium carbonate | 1.0 mmol, 138 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.05 mmol, 58 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 3.0 ml | C(C)O | C2H6O
product | 5-Cyano-7-[3-(dimethylamino)phenyl]-1-phenylbenzimidazole | 64 mg, 38% | C(#N)C1=CC2=C(N(C=N2)C2=CC=CC=C2)C(=C1)C1=CC(=CC=C1)N(C)C | C22H18N4
